US07932247B2
Preparation of N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N-(3-phenylpropyl)-3-(4-piperidinylmethyl)benzamide
Following the general procedure outlined in Example 66, 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (76.1 mg, 0.106 mmol), NaH (8.29 mg, 0.345 mmol) and (3-bromopropyl)benzene (0.024 mL, 0.160 mmol) in DMF (1.0 mL) were reacted to give the desired product (47.2 mg, 70.0%). EI-MS m/z 633(M−H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.106 mmol, 76.1 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C42H55FN4O5
reactant | NaH | 0.345 mmol, 8.29 mg | [H-].[Na+]
reactant | (3-bromopropyl)benzene | 0.160 mmol, 0.024 mL | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N-(3-phenylpropyl)-3-(4-piperidinylmethyl)benzamide | 47.2 mg, 70.0% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CN(C(C1=CC(=CC=C1)CC1CCNCC1)=O)CCCC1=CC=CC=C1 | C41H49FN4O
